US07687490B2
f) 5-Hydroxymethyl-4-((Z)-2-tritylthioethen-1-yl)thiazole
5-t-Butyldimethylsilyloxymethyl-4-((Z)-2-tritylthioethen-1-yl)thiazole (392 mg) was dissolved in 10 ml of THF, 0.7 ml of 5 N-aqueous hydrochloric acid was added to the solution, and the mixture was stirred at room temperature for 2 hr. Brine was added to the reaction solution, and the mixture was adjusted to pH 8 by the addition of sodium bicarbonate water. The mixture was extracted twice with ethyl acetate, followed by washing with brine. The organic layer was dried over anhydrous magnesium sulfate, was filtered, and was concentrated under the reduced pressure. Ethyl acetate (5 ml) and 5 ml of hexane were added to the residue, and the resultant solid was collected by filtration to give 180 mg of the title compound.

reactant | 5-t-Butyldimethylsilyloxymethyl-4-((Z)-2-tritylthioethen-1-yl)thiazole | 392 mg | [Si](C)(C)(C(C)(C)C)OCC1=C(N=CS1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H35NOS2Si
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 5-Hydroxymethyl-4-((Z)-2-tritylthioethen-1-yl)thiazole | 180 mg | OCC1=C(N=CS1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS2
